US04245107
456 mg. of 2-(p-hydroxyphenylsulfinyl)butyric acid and 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 237 mg. of 7-[2-(p-hydroxyphenylsulfinyl)butyramido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 2-(p-hydroxyphenylsulfinyl)butyric acid | OC1=CC=C(C=C1)S(=O)C(C(=O)O)CC | C10H12O4S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-(p-hydroxyphenylsulfinyl)butyramido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | OC1=CC=C(C=C1)S(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)CC | C20H22N6O6S3
